US07897762B2
3-(2-Chloro-4-fluoro-5-nitrophenyl)-1-ethyl-7-(methoxy(methyl)amino)-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one (2.7 g, 6.6 mmol), Pd/C (1.4 g) and hydrogen (30 psi) were combined at 45° C. by the procedure of Example A4 to provide 3-(5-amino-2-chloro-4-fluorophenyl)-1-ethyl-7-(methylamino)-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one (2 g, 87.0% yield). 1H NMR (400 MHz, DMSO-d6): δ 7.72 (s, 1 H), 7.24 (d, J=10.8 Hz, 1 H), 6.81 (d, J=9.2 Hz, 1 H), 6.44 (bs, 1 H), 6.02 (s, 1 H), 5.42 (s, 2 H), 4.50 (d, J=13.2 Hz, 1 H), 4.38 (d, J=13.2 Hz, 1 H), 3.77 (m, 2 H), 2.76 (d, J=4.8 Hz, 3 H), 1.15 (t, J=7.2 Hz, 3 H); MS (ESI) m/z: 350.2[M+H]+.

reactant | 3-(2-Chloro-4-fluoro-5-nitrophenyl)-1-ethyl-7-(methoxy(methyl)amino)-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one | 6.6 mmol, 2.7 g | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])N1C(N(C2=C(C1)C=NC(=C2)N(C)OC)CC)=O | C17H17ClFN5O4
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 1.4 g | [Pd] | Pd
product | 3-(5-amino-2-chloro-4-fluorophenyl)-1-ethyl-7-(methylamino)-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one | 2 g, 87.0% yield | NC=1C(=CC(=C(C1)N1C(N(C2=C(C1)C=NC(=C2)NC)CC)=O)Cl)F | C16H17ClFN5O
